US05484917
A. 8-Methyl-1-naphthol
Prepared from the known (J. Chem. Soc., C, (1966) 523) 8-hydroxymethyl-1-naphthol by hydrogenolysis using 0.1 equiv. of 20% palladium hydroxide on carbon (Pearlmann's catalyst) in ethanol at 45 psi hydrogen for 4 hours in quantitative yield, M.P. 56°-59° C.

reactant | 8-hydroxymethyl-1-naphthol | OCC=1C=CC=C2C=CC=C(C12)O | C11H10O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 0.1 equiv. | [OH-].[OH-].[Pd+2]
product | 8-Methyl-1-naphthol | quantitative yield | CC=1C=CC=C2C=CC=C(C12)O | C11H10O
